US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(2-methylthiophenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate and 1-(2-methylthiophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C14H15N3O3
reactant | 1-(2-methylthiophenyl)piperazine | CSC1=C(C=CC=C1)N1CCNCC1 | C11H16N2S
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(2-methylthiophenyl)piperazine | yield: 71.0% | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)SC | C19H25N5O2S
